### PR TITLE
[Merged by Bors] - feat(Computability/Primrec): recursion on order type omega is primitive recursive

### PR DESCRIPTION
**Pull request by iehality**
add `Primrec.nat_omega_rec`, which states that function defined recursively on order type omega is primitive recursive, and is stronger than `Primrec.nat_strong_rec`. also add some basic theorems about `List`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/Primrec.lean [hunk 1]
```diff
@@ -1155,6 +1158,113 @@ theorem nat_strong_rec (f : α → ℕ → σ) {g : α → List σ → Option σ
...
+    intro a' ha'; simp; rw[mapGraph_graph]
+    · exact H a'
+    · exact List.subset_bind_of_mem ha' l
+
+end
+
+theorem nat_omega_rec {m : α → ℕ} (f : α → σ) {l : α → List α} {g : α → List σ → Option σ}
+    (hm : Primrec m) (hl : Primrec l) (hg : Primrec₂ g)
+    (Ord : ∀ a, ∀ a' ∈ l a, m a' < m a)
+    (H : ∀ a, g a ((l a).map f) = some (f a)) : Primrec f := by
```
Comment (digama0) [inline Mathlib/Computability/Primrec.lean:1258]: You want `f` to also depend on a parameter which plays no role. See `nat_strong_rec` which has a type `α` which is just passed to every function. (This is used in larger constructions to contain all the variables that are fixed in the recursion.)

File: Mathlib/Data/List/Basic.lean [hunk 2]
```diff
@@ -1756,6 +1756,16 @@ theorem bind_congr {l : List α} {f g : α → List β} (h : ∀ x ∈ l, f x =
...
 #align list.bind_congr List.bind_congr
 
+theorem bind_option_toList_of_eq_some {f : β → Option α} {g : β → α} {bs : List β}
+    (h : ∀ x ∈ bs, f x = some (g x)) : bs.bind (fun i => (f i).toList) = bs.map g := by
+  have : bs.bind (fun i => (f i).toList) = bs.bind (List.ret ∘ g) :=
+    List.bind_congr (by simp; intro m hm; simp[h _ hm]; rfl)
+  rw [this, List.bind_ret_eq_map]
+
+theorem subset_bind_of_mem {a : α} {as : List α} (h : a ∈ as) (f : α → List α) :
+    f a ⊆ as.bind f := by
```
Comment (digama0) [inline Mathlib/Data/List/Basic.lean:1766]: This could be strengthened to `List.infix`

Comment (iehality) [reply Mathlib/Data/List/Basic.lean:1766]: add `infix_bind_of_mem`

File: Mathlib/Computability/Primrec.lean (hunk 1 above)
Comment (iehality) [reply Mathlib/Computability/Primrec.lean]: Proved the lemma.

**Comment by hmonroe** [comment]
@digama0 is further action needed to finalize this PR? Many thanks

File: Mathlib/Data/List/Basic.lean [hunk 3]
```diff
@@ -1756,6 +1756,16 @@ theorem bind_congr {l : List α} {f g : α → List β} (h : ∀ x ∈ l, f x =
   (congr_arg List.join <| map_congr h : _)
 #align list.bind_congr List.bind_congr
 
+theorem bind_option_toList_of_eq_some {f : β → Option α} {g : β → α} {bs : List β}
+    (h : ∀ x ∈ bs, f x = some (g x)) : bs.bind (fun i => (f i).toList) = bs.map g := by
```
Comment (digama0) [inline Mathlib/Data/List/Basic.lean:1760]: This looks like it should be factored through `filterMap`: `bs.bind (fun i => (f i).toList) = bs.filterMap f`, and then the congruence of `filterMap` and equality to `map` should already exist

File: Mathlib/Computability/Primrec.lean [hunk 4]
```diff
@@ -1155,6 +1158,125 @@ theorem nat_strong_rec (f : α → ℕ → σ) {g : α → List σ → Option σ
...
+
+section
+
+variable [DecidableEq β]
+
+private def mapGraph (M : List (β × γ)) (bs : List β) : List γ :=
+  bs.bind (Option.toList <| M.lookup ·)
+
+private def bindItr (l : β → List β) (b : β) : ℕ → List β := fun n =>
+  n.rec [b] (fun _ bs => bs.bind l)
```
Comment (digama0) [inline Mathlib/Computability/Primrec.lean:1186]:
```suggestion
private def bindList (l : β → List β) (b : β) : ℕ → List β := fun n =>
  n.rec [b] (fun _ bs => bs.bind l)
```

File: Mathlib/Computability/Primrec.lean [hunk 5]
```diff
@@ -1155,6 +1158,125 @@ theorem nat_strong_rec (f : α → ℕ → σ) {g : α → List σ → Option σ
...
+
+private def graph (m : β → ℕ) (l : β → List β) (g : β → List σ → Option σ) (b : β) :
```
Comment (digama0) [inline Mathlib/Computability/Primrec.lean:1188]: Can all of these `private def` and `private lemma` be moved into `nat_omega_rec'` as `let` and `have` respectively?

File: Mathlib/Computability/Primrec.lean [hunk 6]
```diff
@@ -1113,6 +1113,19 @@ theorem list_join : Primrec (@List.join α) :=
     dsimp; induction l <;> simp [*]
 #align primrec.list_join Primrec.list_join
 
+theorem list_bind {f : α → List β} {g : α → β → List σ} (hf : Primrec f) (hg : Primrec₂ g) :
+    Primrec (fun a => (f a).bind (g a)) := list_join.comp (list_map hf hg)
+
+theorem option_toList : Primrec (Option.toList : Option α → List α) :=
```
Comment (YaelDillies) [inline Mathlib/Computability/Primrec.lean:1119]: Following the [naming convention](https://leanprover-community.github.io/contribute/naming.html), namespaces should be appended in came case when the unnamespaced name is ambiguous.
```suggestion
theorem optionToList : Primrec (Option.toList : Option α → List α) :=
```

File: Mathlib/Computability/Primrec.lean [hunk 7]
```diff
@@ -1113,6 +1113,19 @@ theorem list_join : Primrec (@List.join α) :=
...
+  (option_casesOn Primrec.id (const [])
+    ((list_cons.comp Primrec.id (const [])).comp₂ Primrec₂.right)).of_eq
+  (fun o => by rcases o <;> simp)
+
+theorem list_filterMap {f : α → List β} {g : α → β → Option σ}
```
Comment (YaelDillies) [inline Mathlib/Computability/Primrec.lean:1124]:
```suggestion
theorem listFilterMap {f : α → List β} {g : α → β → Option σ}
```
or just
```suggestion
theorem filterMap {f : α → List β} {g : α → β → Option σ}
```
because I think `filterMap` unambiguously means `List.filterMap`

File: Mathlib/Data/List/Basic.lean [hunk 8]
```diff
@@ -2915,6 +2919,25 @@ theorem Sublist.map (f : α → β) {l₁ l₂ : List α} (s : l₁ <+ l₂) : m
...
+    (h : ∀ x ∈ l, f x = g x) : l.filterMap f = l.filterMap g := by
+  induction' l with a l ih <;> simp
+  simp [ih (fun x hx ↦ h x (List.mem_cons_of_mem a hx))]
+  cases' hfa : f a with b
+  · have : g a = none := Eq.symm (by simpa [hfa] using h a (by simp))
+    simp [this]
+  · have : g a = some b := Eq.symm (by simpa [hfa] using h a (by simp))
+    simp [this]
+
+theorem filterMap_eq_map_of_eq_some {f : α → Option β} {g : α → β} {l : List α}
```
Comment (YaelDillies) [inline Mathlib/Data/List/Basic.lean:2937]:
```suggestion
theorem filterMap_eq_map_of_forall_eq_some {f : α → Option β} {g : α → β} {l : List α}
```
Is this lemma true as an iff, btw? If so, can you write that iff (and remove the current, weaker, lemma)?

File: Mathlib/Computability/Primrec.lean [hunk 9]
```diff
@@ -1147,6 +1160,88 @@ theorem nat_strong_rec (f : α → ℕ → σ) {g : α → List σ → Option σ
       simp [IH, H, List.range_succ]
 #align primrec.nat_strong_rec Primrec.nat_strong_rec
 
+theorem list_lookup [DecidableEq α] : Primrec₂ (List.lookup : α → List (α × β) → Option β) :=
```
Comment (YaelDillies) [inline Mathlib/Computability/Primrec.lean:1163]:
```suggestion
theorem listLookup [DecidableEq α] : Primrec₂ (List.lookup : α → List (α × β) → Option β) :=
```
or
```suggestion
theorem lookup [DecidableEq α] : Primrec₂ (List.lookup : α → List (α × β) → Option β) :=
```

File: Mathlib/Data/List/Basic.lean (hunk 8 above)
Comment (iehality) [reply Mathlib/Data/List/Basic.lean]: ok. I proved the iff, and named it `filterMap_eq_map_iff_forall_eq_some`.

File: Mathlib/Data/List/Basic.lean [hunk 10]
```diff
@@ -2842,9 +2842,17 @@ theorem filterMap_congr {f g : α → Option β} {l : List α}
...
+    l.filterMap f = l.map g ↔ ∀ x ∈ l, f x = some (g x) :=
+  ⟨by induction' l with a l ih
+      · simp
+      · cases' ha : f a with b <;> simp [ha]
+        · intro h
+          simpa [show (filterMap f l).length = l.length + 1 from by simp[h], Nat.add_one_le_iff]
+            using List.length_filterMap_le f l
+        · rintro rfl h
+          exact ⟨rfl, ih h⟩,
+    fun h ↦ Eq.trans (filterMap_congr $ by simpa) (congr_fun (List.filterMap_eq_map _) _)⟩
```
Comment (YaelDillies) [inline Mathlib/Data/List/Basic.lean:2855]: This is probably more readable:
```suggestion
    l.filterMap f = l.map g ↔ ∀ x ∈ l, f x = some (g x) where
  mp := by induction' l with a l ih
    · simp
    cases' ha : f a with b <;> simp [ha]
    · intro h
      simpa [show (filterMap f l).length = l.length + 1 from by simp[h], Nat.add_one_le_iff]
        using List.length_filterMap_le f l
    · rintro rfl h
      exact ⟨rfl, ih h⟩,
  mpr h := Eq.trans (filterMap_congr $ by simpa) (congr_fun (List.filterMap_eq_map _) _)
```

**Review by YaelDillies — APPROVED** [review]
Horrible horrible proof that you have got there, but it seems it's maths' fault, not yours, so

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
